US06727264B1
N-(2-IODOPHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 using 2-methylpropanoyl chloride and 2-iodoaniline: ESMS m/e: 289.9 (M+H)+.

reactant | 2-methylpropanoyl chloride | CC(C(=O)Cl)C | C4H7ClO
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | N-(2-IODOPHENYL)-2-METHYLPROPANAMIDE | IC1=C(C=CC=C1)NC(C(C)C)=O | C10H12INO
